US07601716B2
1-(2-Chloro-3,6-difluorobenzyl)-7-(3,5-dimethyl-isoxazol-4-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
1-(2-Chloro-3,6-difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (75 mg) was reacted with 3,5-dimethylisoxazole-4 boronic acid as in General Procedure 4A to give the title compound as a pale yellow solid (45% yield). M.p. 215-216° C., LCMS: m/z=393.42 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 2.22 (s, 3H), 2.36 (s, 3H), 3.31 (t, J=5.0 Hz, 2H), 3.52-3.58 (m, 2H), 4.47 (s, 2H), 4.98 (bs, 1H), 6.71 (s, 1H), 6.98-7.05 (m, 1H), 7.09-7.17 (m, 1H), 7.36 (d, J=1.3 Hz, 1H).

reactant | 1-(2-Chloro-3,6-difluorobenzyl)-7-iodo-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 75 mg | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)I)C(=CC=C1F)F | C14H11ClF2IN3
reactant | 3,5-dimethylisoxazole-4 boronic acid | CC1=NOC(=C1B(O)O)C | C5H8BNO3
product | 1-(2-Chloro-3,6-difluorobenzyl)-7-(3,5-dimethyl-isoxazol-4-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 45% yield | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)C=3C(=NOC3C)C)C(=CC=C1F)F | C19H17ClF2N4O
